US09169246B2
Step 17.2. N-methyl-N-{3-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with N-methyl-N-{3-[4-oxo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide and N-methyl-N-{3-[4-oxo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide, in the form of a white powder (hydrochloride, 1 H2O; yield 58%).

reactant | N-methyl-N-{3-[4-oxo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide | CN(C(C)=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C25H24F3N5O3
reactant | N-methyl-N-{3-[4-oxo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide | CN(C(C)=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C25H26F3N5O3
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | N-methyl-N-{3-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide hydrochloride | yield 58% | Cl.CN(C(C)=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C20H16F3N5O2.ClH/c1-11(29)27(2)18-13(4-3-7-24-18)12-5-6-14-16(8-12)28(10-20(21,22)23)19(30)15-9-25-26-17(14)15;/h3-9H,10H2,1-2H3,(H,25,26);1H
